US09085527B2
The TFA salt of N-(2-(2-(2-aminoethyl)-disulfanyl)-ethyl)-2-hydroxybenzamide (1.08 mmol) was taken up in anhydrous CH3CN (15 mL) along with (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid (DHA, 352 mg, 1.08 mmol), HATU (450 mg, 1.2 mmol) and DIEA (0.550 mL). The resulting reaction mixture was stirred at room temperature for 2 h. It was then diluted with EtOAc and washed successively with saturated aqueous NaHCO3 and brine. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. Purification by chromatography (60% EtOAc, 40% pentane) afforded N-(2-(2-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoethyl)disulfanyl)ethyl)-2-hydroxybenzamide (280 mg, 44%). Mass calculated for C33H46N2O3S2: 582.3; found: [M+H]+=583.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-(2-(2-(2-aminoethyl)-disulfanyl)-ethyl)-2-hydroxybenzamide | 1.08 mmol | NCCSSCCNC(C1=C(C=CC=C1)O)=O | C11H16N2O2S2
reactant | (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid | 1.08 mmol, 352 mg | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C22H32O2
reactant | HATU | 1.2 mmol, 450 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.550 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 15 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-(2-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoethyl)disulfanyl)ethyl)-2-hydroxybenzamide | 280 mg, 44% | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)NCCSSCCNC(C1=C(C=CC=C1)O)=O | C33H46N2O3S2
